US07728009B1
O. 1-Cyclobutyl-4-(3-ethyl-5-methyl-2-naphthalen-1-yl-3H-imidazol-4-ylmethyl)-piperazine
To a solution of (4-cyclobutyl-piperazin-1-yl)-(3-ethyl-5-methyl-2-naphthalen-1-yl-3H-imidazol-4-yl)-methanone (40 mg) in THF (1 ml) is added DIBAL-H (0.25 ml, 1.5 M in toluene) at 0° C. The resulting solution is stirred at rt for 2 hr, and then quenched with brine. The THF layer is separated, evaporated and purified by column (2% Et3N, 3% MeOH in EtOAc) to afford the title compound. LCMS 389.5 (M+1). NMR (CDCl3) δ ppm 1.05 (t, 3H), 1.63-2.05 (m, 9H), 2.29 (s, 3H), 2.35-2.56 (m, 5H), 2.74 (m, 1H), 3.52 (s, 2H), 3.82 (q, 2H), 7.42-7.60 (m, 5H), 7.87-7.94 (m, 2H).

reactant | (4-cyclobutyl-piperazin-1-yl)-(3-ethyl-5-methyl-2-naphthalen-1-yl-3H-imidazol-4-yl)-methanone | 40 mg | C1(CCC1)N1CCN(CC1)C(=O)C=1N(C(=NC1C)C1=CC=CC2=CC=CC=C12)CC | C25H30N4O
reactant | DIBAL-H | 1.5 M, 0.25 ml | CC(C)C[AlH]CC(C)C
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 1-Cyclobutyl-4-(3-ethyl-5-methyl-2-naphthalen-1-yl-3H-imidazol-4-ylmethyl)-piperazine | C1(CCC1)N1CCN(CC1)CC=1N(C(=NC1C)C1=CC=CC2=CC=CC=C12)CC | C25H32N4
